### PR TITLE
[Merged by Bors] - feat(CategoryTheory): lifting properties and parametrized adjunctions

### PR DESCRIPTION
**Pull request by joelriou**
Given a parametrized adjunction `adj₂ : F ⊣₂ G` between bifunctors `F : C₁ ⥤ C₂ ⥤ C₃` and `G : C₁ᵒᵖ ⥤ C₃ ⥤ C₂`, three maps `f₁ : X₁ ⟶ Y₁` in `C₁`, `f₂ : X₂ ⟶ Y₂` in `C₂`, and `f₃ : X₃ ⟶ Y₃` in `C₃`, this PR shows that `f₃` has the right lifting property with respect to the "inclusion" of the pushout of `(F.obj Y₁).obj X₂` and `(F.obj X₁).obj Y₂` along `(F.obj X₁).obj X₂` into `(F.obj Y₁).obj Y₂` if and only if `f₂` has the left lifting property with respect to the projection map from `(G.obj Y₁).obj X₃` to the pullback of `(G.obj (op X₁)).obj X₃` and `(G.obj (op Y₁)).obj Y₃` over `(G.obj (op X₁)).obj Y₃`.

(In homotopical algebra, this is typically used for the adjunction between the tensor product and the internal hom.)

---

- [x] depends on: #22828

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/LiftingProperties/Basic.lean [hunk 1]
```diff
@@ -149,4 +149,23 @@ lemma RetractArrow.rightLiftingProperty
       ⟨by rw [← Category.assoc, ← sq.w, Category.assoc, RetractArrow.i_w, Category.assoc]⟩
     ⟨⟨{ l := sq'.lift ≫ h.r.left}⟩⟩
 
+namespace Arrow
+
+/-- Given a morphism `φ : f ⟶ g` in the category `Arrow C`, this is an
+abbreviation for the `CommSq.LiftStruct` structure corresponding to
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LiftingProperties/Basic.lean:155]:
```suggestion
abbreviation for the `CommSq.LiftStruct` structure of
```

File: Mathlib/CategoryTheory/LiftingProperties/AdjunctionTwo.lean [hunk 2]
```diff
@@ -0,0 +1,261 @@
...
+
+/-Similarly, if we have a bifunctor `G : C₁ᵒᵖ ⥤ C₃ ⥤ C₂`, and
+morphisms `f₁ : X₁ ⟶ Y₁` in `C₁` and `f₃ : X₃ ⟶ Y₃` in `C₂`,
+we introduce a structure `F.PullbackObjObj f₁ f₃` which
+contains the data of a pullback of `(G.obj (op X₁)).obj X₃`
+and `(G.obj (op Y₁)).obj Y₃` over `(G.obj (op X₁)).obj Y₃`.
+If `sq₁₃ : F.PullbackObjObj f₁ f₃`, we have a canonical
+projection `sq₁₃.π : (G.obj Y₁).obj X₃ ⟶ sq₁₃.pt`.-/
+
+/-- Given a bifunctor `G : C₁ᵒᵖ ⥤ C₃ ⥤ C₂`, and morphisms`f₁ : X₁ ⟶ Y₁` in `C₁`
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LiftingProperties/AdjunctionTwo.lean:103]:
```suggestion
/-- Given a bifunctor `G : C₁ᵒᵖ ⥤ C₃ ⥤ C₂`, and morphisms `f₁ : X₁ ⟶ Y₁` in `C₁`
```

File: Mathlib/CategoryTheory/LiftingProperties/AdjunctionTwo.lean [hunk 3]
```diff
@@ -0,0 +1,261 @@
...
+  [Category.{v₁} C₁] [Category.{v₂} C₂] [Category.{v₃} C₃]
+  (F : C₁ ⥤ C₂ ⥤ C₃) (G : C₁ᵒᵖ ⥤ C₃ ⥤ C₂)
+
+namespace Functor
+
+section
+
+variable {X₁ Y₁ : C₁} (f₁ : X₁ ⟶ Y₁) {X₂ Y₂ : C₂} (f₂ : X₂ ⟶ Y₂)
+
+/-- Given a bifunctor `F : C₁ ⥤ C₂ ⥤ C₃`, and morphisms`f₁ : X₁ ⟶ Y₁` in `C₁`
```
Comment (joelriou) [inline Mathlib/CategoryTheory/LiftingProperties/AdjunctionTwo.lean:52]:
```suggestion
/-- Given a bifunctor `F : C₁ ⥤ C₂ ⥤ C₃`, and morphisms `f₁ : X₁ ⟶ Y₁` in `C₁`
```

File: Mathlib/CategoryTheory/Adjunction/AdjunctionTwo.lean [hunk 4]
```diff
@@ -0,0 +1,96 @@
...
+
+namespace CategoryTheory
+
+open Opposite
+
+variable {C₁ : Type u₁} {C₂ : Type u₂} {C₃ : Type u₃}
+  [Category.{v₁} C₁] [Category.{v₂} C₂] [Category.{v₃} C₃]
+  (F : C₁ ⥤ C₂ ⥤ C₃) (G : C₁ᵒᵖ ⥤ C₃ ⥤ C₂)
+
+/-- Given bifuntors `F : C₁ ⥤ C₂ ⥤ C₃` and `G : C₁ᵒᵖ ⥤ C₃ ⥤ C₂`,
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/AdjunctionTwo.lean:29]:
```suggestion
/-- Given bifunctors `F : C₁ ⥤ C₂ ⥤ C₃` and `G : C₁ᵒᵖ ⥤ C₃ ⥤ C₂`,
```

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/CategoryTheory/LiftingProperties/ParametrizedAdjunction.lean [hunk 5]
```diff
@@ -0,0 +1,268 @@
...
+variable {F G} (adj₂ : F ⊣₂ G)
+  {X₁ Y₁ : C₁} {f₁ : X₁ ⟶ Y₁} {X₂ Y₂ : C₂} {f₂ : X₂ ⟶ Y₂}
+  {X₃ Y₃ : C₃} {f₃ : X₃ ⟶ Y₃}
+  (sq₁₂ : F.PushoutObjObj f₁ f₂) (sq₁₃ : G.PullbackObjObj f₁ f₃)
+
+/-- Given a parametrized adjunction `F ⊣₂ G` between bifunctors, and structures
+`sq₁₂ : F.PushoutObjObj f₁ f₂` and `sq₁₃ : G.PullbackObjObj f₁ f₃`, there are
+as many commutative squares with left map `sq₁₂.ι` and right map `f₃`
+as commutative squares with left map `f₂` and right map `sq₁₃.π`. -/
+@[simps! -isSimp apply_left apply_right symm_apply_left symm_apply_right]
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/LiftingProperties/ParametrizedAdjunction.lean]:
```suggestion
@[simps! apply_left symm_apply_right]
```
The lemma generated by simps for `apply_right` and `symm_apply_left` are a bit ugly (they contain some `isPushout.desc` or `isPullback.lift`.

The following four lemmas

```lean
@[reassoc (attr := simp)]
lemma arrowHomEquiv_apply_right_π_fst (α : Arrow.mk sq₁₂.ι ⟶ Arrow.mk f₃) :
    ((adj₂.arrowHomEquiv sq₁₂ sq₁₃) α).right ≫ sq₁₃.fst = adj₂.homEquiv (sq₁₂.inr ≫ α.left) :=
  IsPullback.lift_fst _ _ _ _

@[reassoc (attr := simp)]
lemma arrowHomEquiv_apply_right_π_snd (α : Arrow.mk sq₁₂.ι ⟶ Arrow.mk f₃) :
    ((adj₂.arrowHomEquiv sq₁₂ sq₁₃) α).right ≫ sq₁₃.snd = adj₂.homEquiv α.right :=
  IsPullback.lift_snd _ _ _ _

@[reassoc (attr := simp)]
lemma arrowHomEquiv_symm_apply_left_inl (β : Arrow.mk f₂ ⟶ Arrow.mk sq₁₃.π) :
    sq₁₂.inl ≫ ((adj₂.arrowHomEquiv sq₁₂ sq₁₃).symm β).left = adj₂.homEquiv.symm β.left :=
  IsPushout.inl_desc _ _ _ _

@[reassoc (attr := simp)]
lemma arrowHomEquiv_symm_apply_right_inl (β : Arrow.mk f₂ ⟶ Arrow.mk sq₁₃.π) :
    sq₁₂.inr ≫ ((adj₂.arrowHomEquiv sq₁₂ sq₁₃).symm β).left = 
    adj₂.homEquiv.symm (β.right ≫ sq₁₃.fst) :=
  IsPushout.inr_desc _ _ _ _
```

instead characterizes their behaviour w.r.t the inclusions/projections, and I’d argue that then everything can be made simp. This sadly does not simplify that much the proofs in `liftStructEquiv`.

File: Mathlib/CategoryTheory/LiftingProperties/ParametrizedAdjunction.lean [hunk 6]
```diff
@@ -0,0 +1,268 @@
...
+            ← adj₂.homEquiv_naturality_three])) (by
+          apply sq₁₃.isPullback.hom_ext
+          · simp [← adj₂.homEquiv_naturality_two,
+              ← adj₂.homEquiv_naturality_one,
+              sq₁₂.isPushout.w_assoc]
+          · simp [← adj₂.homEquiv_naturality_two,
+              ← adj₂.homEquiv_naturality_three])
+  invFun β := Arrow.homMk
+      (sq₁₂.isPushout.desc
+        (adj₂.homEquiv.symm (β.left))
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/LiftingProperties/ParametrizedAdjunction.lean]:
```suggestion
        (adj₂.homEquiv.symm β.left)
```

File: Mathlib/CategoryTheory/LiftingProperties/ParametrizedAdjunction.lean (hunk 5 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/LiftingProperties/ParametrizedAdjunction.lean]: Thanks for the suggestion!

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
